2193-06-09 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2193-6-8**] 07:00 PM
   - required levophed 0.3 mcg for the majority of the day, now weaned off
   - droplet precautions discontinued as bacterial meningitis felt to be
   low on the differential
   - seen by neurology who agreed with defering LP for now but if
   continues to spike, has mental status changes or signs of seizure will
   need to readdress
   - Only blood cultures sent from [**Hospital3 611**], no growth to date
   - He was continued on vancomycin, ceftriaxone, and ampicillin
   - continues to spike fevers to 101 degrees, cultures negative thus far
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2193-6-8**] 08:00 PM
   Ceftriaxone - [**2193-6-9**] 02:06 AM
   Ampicillin - [**2193-6-9**] 04:39 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-6-9**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.7
C (98.1
   HR: 93 (92 - 118) bpm
   BP: 131/73(85) {85/28(44) - 131/84(89)} mmHg
   RR: 19 (19 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,722 mL
                                                                    824 mL
   PO:
                                                                    920 mL
             TF:
   IVF:
                                                                  3,013 mL
                                                                    824 mL
   Blood products:
                                                                    289 mL
   Total out:
                                                                  4,635 mL
                                                                  1,520 mL
   Urine:
                                                                  4,635 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,087 mL
                                                                   -696 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///18/
   Physical Examination
   General: Alert, oriented to person and hospital, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: + foley
   Ext: Warm, well perfused, chronic venous changes over lower extremities
   with 1+ pitting pedal edema, 2+ pulses
   Skin: Fine, blanching, macular rash over distal upper extremities b/l,
   not affecting palms or soles
   Neuro: AAO x 3, CN II-XII grossly intact, strength 5/5 when
   cooperative, sensation intact to light touch, DTR symmetric, toes
   downgoing on Babinski, gait not assessed.
   Labs / Radiology
   128 K/uL
   9.4 g/dL
   91 mg/dL
   1.5 mg/dL
   18 mEq/L
   3.7 mEq/L
   21 mg/dL
   111 mEq/L
   140 mEq/L
   28.2 %
   3.4 K/uL
        [image002.jpg]
                             [**2193-6-8**]  04:05 AM
                             [**2193-6-8**]  04:04 PM
                             [**2193-6-9**]  04:16 AM
   WBC
   6.0
   3.4
   Hct
   32.2
   28.2
   Plt
   138
   128
   Cr
   1.8
   1.5
   1.5
   Glucose
   138
   109
   91
   Other labs: PT / PTT / INR:12.8/23.4/1.1, ALT / AST:38/27, Alk Phos / T
   Bili:78/0.2, Amylase / Lipase:105/122, Differential-Neuts:90.2 %,
   Lymph:5.8 %, Mono:2.2 %, Eos:1.6 %, Albumin:3.5 g/dL, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Microbiology:
   Blood and urine cultures from [**2193-6-8**]: no growth to date
   Imaging:
   No new imaging
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 MENINGITIS, OTHER
 URINARY TRACT INFECTION (UTI)
   48 yo man with h/o mental retardation, seizure disorder, DVT on
   coumadin, and recent meningitis who presents with fever, rash, relative
   leukocytosis, and hypotension.
   .
   Hypotension/Sepsis: Presents with fever, rash, and relative
   leukocytosis (baseline WBC [**1-31**]) with subsequent hypotension requiring
   pressors. Urosepsis higher on differential given dirty U/A. Meningitis
   possible given recent history of this and uncertain baseline mental
   status. Pulmonary source less likely given absence of respiratory
   symptoms and unremarkable CXR; influenza negative at OSH. At last
   hospitalization, anaphylactic shock was a concern; med list does not
   suggest there were any recent medication changes, and eos not elevated
   on diff. No findings to suggest cardiogenic shock.
   - Trend temp and WBC
   - Cont broad antibiotics (vanc, ceftriaxone, and acyclovir) for empiric
   coverage of meningitis as well as UTI
   - Recheck coags s/p 1 dose of vitamin K and 1 unit FFP and consider LP
   once INR reversed. Of note, required IR-guided LP during last admission
   - Send urine culture; f/u blood cultures
   - F/u OSH blood and urine cultures
   - Wean off dopamine gtt as tolerated with fluid boluses as needed to
   maintain goal MAP >60 and UOP >30 cc/h. If not responsive to fluid
   boluses, would transition pressors to levophed.
   .
   Rash: Fine macular rash over arms b/l of unclear etiology. Eos not
   elevated to suggest allergy. No known new medications. Concern for rash
   in setting of meningitis but not classic appearance. Viral exanthem
   also possible; influenza negative.
   - Monitor for now
   .
   Acute renal failure: Cr 1.9 on presentation to OSH and 1.5 here. FENa
   1.2% nonspecific. [**Month (only) 51**] be prerenal given improvement after OSH fluids
   although ATN in setting of hypotension possible. No new meds to suggest
   AIN. Postrenal less likely. Did receive 5L IV fluids in ED.
   - Trend Cr
   - Hold gabapentin pending AM Cr
   - Consider further work-up if not improved
   .
   Abnormal electrolytes: Labs on arrival with Na 130, bicarb 14 c/w
   nonanion gap metabolic acidosis. Of note, Na 140 and bicarb 22 at OSH.
   [**Month (only) 51**] : Was 140 when checked at OSH. [**Month (only) 51**] be spurious versus hyponatremia
   in setting of hypovolemia. Now s/p 5L IV fluids in ED.
   - Recheck lytes
   .
   Hyperglycemia: On admission labs, gluc 400s. Was 112 at OSH. [**Month (only) 51**] be
   spurious value as no h/o diabetes. Glucose possibly elevated in setting
   of infection.
   - Recheck lytes as above
   .
   H/o DVT x 2: INR supratherapeutic on presentation
   - Hold coumadin given plan to reverse INR for LP
   - Pneumoboots for ppx
   .
   Hypertension: Currently hypotensive
   - Hold home atenolol 25mg and clonidine 0.1mg [**Hospital1 **] for now
   .
   OCD:
   - Cont home sertraline 250mg, buspirone 30mg [**Hospital1 **], and risperidone 0.5mg
   [**Hospital1 **]
   - Cont lorazepam 0.5-1mg po q4h prn anxiety
   - Holding clonidine for now given hypotension
   .
   Seizure disorder
   - Cont home phenytoin
   - Hold Neurontin 600 mg po tid for now pending repeat Cr
   .
   Hypothyroidism: Cont home levothyroxine 250 mcg po daily
   .
   GERD: Cont home famotidine 20mg daily
   .
   Anemia: Stable at baseline. Monitor.
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-6-8**] 02:59 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin - holding as
   supratherapeutic)
   Stress ulcer:
   VAP:
   Comments: Respiratory, seizure, and aspiration precautions
   Communication: Family meeting held , ICU consent signed Comments:
   Mother ([**Telephone/Fax (1) 8698**]).
   Code status: Full code
   Disposition: ICU

2193-06-09 09:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   febrile to 101.1 yest pm. otherwise weaned off pressors yest evening.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-6-9**] 02:06 AM
   Vancomycin - [**2193-6-9**] 08:24 AM
   Ampicillin - [**2193-6-9**] 09:34 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Zoloft, Colace, Buspar, Synthroid, Dilantin, Risperidone, Pepcid,
   ampicillin, CTX, vancomycin, heparin sc
   Changes to medical and family history:
   Review of systems is unchanged from [**Year (4 digits) 1758**] except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-6-9**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.7
C (98
   HR: 92 (92 - 118) bpm
   BP: 132/80(91) {85/28(44) - 139/87(99)} mmHg
   RR: 30 (19 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,722 mL
                                                                  1,248 mL
   PO:
                                                                    920 mL
             TF:
   IVF:
                                                                  3,013 mL
                                                                  1,248 mL
   Blood products:
                                                                    289 mL
   Total out:
                                                                  4,635 mL
                                                                  2,040 mL
   Urine:
                                                                  4,635 mL
                                                                  2,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,087 mL
                                                                   -690 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, mental
   retardation- at baseline mental status per family
   Labs / Radiology
   9.4 g/dL
   128 K/uL
   91 mg/dL
   1.5 mg/dL
   18 mEq/L
   3.7 mEq/L
   21 mg/dL
   111 mEq/L
   140 mEq/L
   28.2 %
   3.4 K/uL
        [image002.jpg]
                             [**2193-6-8**]  04:05 AM
                             [**2193-6-8**]  04:04 PM
                             [**2193-6-9**]  04:16 AM
   WBC
   6.0
   3.4
   Hct
   32.2
   28.2
   Plt
   138
   128
   Cr
   1.8
   1.5
   1.5
   Glucose
   138
   109
   91
   Other labs: PT / PTT / INR:12.8/23.4/1.1, ALT / AST:38/27, Alk Phos / T
   Bili:78/0.2, Amylase / Lipase:105/122, Differential-Neuts:90.2 %,
   Lymph:5.8 %, Mono:2.2 %, Eos:1.6 %, Albumin:3.5 g/dL, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Microbiology: [**6-7**] pan culture- pending or neg
   [**6-7**] OSH panculture- pending or neg
   Assessment and Plan
   48 yo man with mental retardation, seizure disorder, hx DVT on
   coumadin, and recent meningitis admitted w/ presumed septic shock.
   Shock: in the setting of fever, rash and relative leukocytosis
   suspecting urosepsis as most likely etiology. resolved
   Presumed infection: multiple possible sources, inlcuding urine and
   possibly CNS
   -OSH urine dirty, need to f/u cultures
   -given prior meningitis need to consider CNS infection; may need to
   consider LP if continues to be febrile. this would be very technically
   challenging given his mental capacity. at this point much less likely
   overally given clear MS [**First Name (Titles) **] [**Last Name (Titles) 1758**]
   -broad coverage w/ vanco + ampicillin + CTX till culture data back.
   ARF: ATN vs AIN (intrinsic renal by FeNa, though may have been checked
   after saline given; FeUrea wouild be more helpfu)l
   -cont fluids, renally-dosing meds, and minimizing nephrotoxins for now
   hx DVT: clarify when this was and if pt needs continued anticoag
   -holding transiently for poss LP, consider enoxaparin sc
   Neuropsych disorder:
   - Cont home sertraline 250mg, buspirone 30mg [**Hospital1 **], and risperidone 0.5mg
   [**Hospital1 **]
   - Cont lorazepam 0.5-1mg po q4h prn anxiety
   - Cont home phenytoin
   - Hold Neurontin 600 mg po tid for now pending repeat Cr
   Rest of plan as per housestaff note.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2193-6-8**] 02:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2193-06-10 05:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - [**Hospital3 **] Blood and Urine Cx - No growth to date.  Direct line
   is [**Telephone/Fax (1) 8726**]
   - Transitioned to lovenox 120 mg daily for hx of 2 DVTs
   - IR guided PICC ordered - may need sedation given his agitation about
   needles and procedures.
   - No new neuro recs.
   - called out but did not get a bed
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2193-6-9**] 07:53 PM
   Ceftriaxone - [**2193-6-10**] 02:02 AM
   Ampicillin - [**2193-6-10**] 04:28 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2193-6-9**] 01:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-6-10**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 98 (90 - 106) bpm
   BP: 139/82(94) {85/24(61) - 157/102(106)} mmHg
   RR: 16 (16 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,608 mL
                                                                    208 mL
   PO:
                                                                  1,160 mL
             TF:
   IVF:
                                                                  2,448 mL
                                                                    208 mL
   Blood products:
   Total out:
                                                                  4,720 mL
                                                                  1,100 mL
   Urine:
                                                                  4,720 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,112 mL
                                                                   -892 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   General: Alert, oriented to person and hospital, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended
   GU: + foley
   Ext: Warm, well perfused, chronic venous changes over lower extremities
   with 1+ pitting pedal edema, 2+ pulses
   Skin: Fine, blanching, macular rash over distal upper extremities b/l,
   not affecting palms or soles
   Neuro: AAO x 3, CN II-XII grossly intact, strength 5/5 when
   cooperative, sensation intact to light touch, DTR symmetric, toes
   downgoing on Babinski, gait not assessed.
   Labs / Radiology
   149 K/uL
   9.9 g/dL
   91 mg/dL
   1.5 mg/dL
   18 mEq/L
   3.7 mEq/L
   21 mg/dL
   111 mEq/L
   140 mEq/L
   29.3 %
   3.1 K/uL
        [image002.jpg]
                             [**2193-6-8**]  04:05 AM
                             [**2193-6-8**]  04:04 PM
                             [**2193-6-9**]  04:16 AM
                             [**2193-6-10**]  04:50 AM
   WBC
   6.0
   3.4
   3.1
   Hct
   32.2
   28.2
   29.3
   Plt
   138
   128
   149
   Cr
   1.8
   1.5
   1.5
   Glucose
   138
   109
   91
   Other labs: PT / PTT / INR:12.8/23.4/1.1, ALT / AST:38/27, Alk Phos / T
   Bili:78/0.2, Amylase / Lipase:105/122, Differential-Neuts:90.2 %,
   Lymph:5.8 %, Mono:2.2 %, Eos:1.6 %, Albumin:3.5 g/dL, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   48 yo man with h/o mental retardation, seizure disorder, DVT on
   coumadin, and recent meningitis who presents with fever, rash, relative
   leukocytosis, and hypotension.
   Hypotension/Sepsis: Presents with fever, rash, and relative
   leukocytosis (baseline WBC [**1-31**]) with subsequent hypotension requiring
   pressors. Urosepsis higher on differential given dirty U/A but no
   culture sent from outside hospital. Meningitis possible given recent
   history of this and uncertain baseline mental status although per
   family he is currently at his baseline and has not had any evidence of
   seizure activity. Pulmonary source less likely given absence of
   respiratory symptoms and unremarkable CXR; influenza negative at OSH.
   At last hospitalization, anaphylactic shock was a concern; med list
   does not suggest there were any recent medication changes, and eos not
   elevated on diff. No findings to suggest cardiogenic shock.  Now off
   pressors but with intermittent fevers throughout the day.
   - Trend temp and WBC
   - Cont broad antibiotics (vanc, ceftriaxone, and ampicillin) for
   empiric coverage of meningitis as well as UTI
   - f/u urine culture; f/u blood cultures
   - F/u OSH blood and urine cultures
   - IVF for goal MAP >60 and UOP >30 cc/h. If not responsive to fluid
   boluses, will restart levophed.
   - defer LP for now
   Rash: Fine macular rash over arms b/l of unclear etiology. Eos not
   elevated to suggest allergy. No known new medications.  Not classic
   appearance for meningitis. Viral exanthem also possible; influenza
   negative.
   - Monitor for now
   Acute renal failure: Cr 1.9 on presentation to OSH and 1.5 here. FENa
   1.2% nonspecific. [**Month (only) 51**] be prerenal given improvement after IVF.  [**Month (only) 51**]
   also have a component of ATN from hypotension.  Trace positive eos but
   no new meds to suggest AIN.
   - Trend Cr
   - Hold gabapentin for now
   - renally dose medications
   Hyperglycemia: On admission labs, gluc 400s.  Likely spurious.  No
   history of diabetes.  All subsequent checks within normal limits.
   - no further workup
   H/o DVT x 2: INR supratherapeutic on presentation.  Currently coumadin
   being held as LP is being discussed.
   - Hold coumadin given plan to reverse INR for LP
   - Find out when DVT was and either start 1x per day lovenox or hold off
   if DVT >1 year ago
   Hypertension:  Blood pressures currently stable post resuscitation
   - Hold home atenolol 25mg and clonidine 0.1mg [**Hospital1 **] for now
   OCD:
   - Cont home sertraline 250mg, buspirone 30mg [**Hospital1 **], and risperidone 0.5mg
   [**Hospital1 **]
   - Cont lorazepam 0.5-1mg po q4h prn anxiety
   - Holding clonidine for now given hypotension
   Seizure disorder
   - Cont home phenytoin
   - Hold Neurontin 600 mg po tid for now pending repeat Cr
   Hypothyroidism: Cont home levothyroxine 250 mcg po daily
   GERD: Cont home famotidine 20mg daily
   Anemia: Stable at baseline. Monitor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-6-8**] 02:59 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2193-06-10 10:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Sepsis
   24 Hour Events:
   afebrile. Called out yest but no beds available. continues to have R
   fem line, difficulty obtaining alternate access.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-6-10**] 02:02 AM
   Vancomycin - [**2193-6-10**] 08:00 AM
   Ampicillin - [**2193-6-10**] 08:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2193-6-9**] 01:17 PM
   Famotidine (Pepcid) - [**2193-6-10**] 08:00 AM
   Other medications:
   vanco, colace, Zoloft, buspirone, synthroid, risperidone, ampicillin,
   CTX, lovenox
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-6-10**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 95 (90 - 106) bpm
   BP: 151/84(100) {110/24(61) - 157/111(118)} mmHg
   RR: 20 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,608 mL
                                                                    707 mL
   PO:
                                                                  1,160 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  2,448 mL
                                                                    557 mL
   Blood products:
   Total out:
                                                                  4,720 mL
                                                                  2,110 mL
   Urine:
                                                                  4,720 mL
                                                                  2,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,112 mL
                                                                 -1,403 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   149 K/uL
   90 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.0 mEq/L
   11 mg/dL
   111 mEq/L
   143 mEq/L
   29.3 %
   3.1 K/uL
        [image002.jpg]
                             [**2193-6-8**]  04:05 AM
                             [**2193-6-8**]  04:04 PM
                             [**2193-6-9**]  04:16 AM
                             [**2193-6-10**]  04:50 AM
   WBC
   6.0
   3.4
   3.1
   Hct
   32.2
   28.2
   29.3
   Plt
   138
   128
   149
   Cr
   1.8
   1.5
   1.5
   1.0
   Glucose
   138
   109
   91
   90
   Other labs: PT / PTT / INR:11.9/26.0/1.0, ALT / AST:38/27, Alk Phos / T
   Bili:78/0.2, Amylase / Lipase:105/122, Differential-Neuts:90.2 %,
   Lymph:5.8 %, Mono:2.2 %, Eos:1.6 %, Albumin:3.5 g/dL, Ca++:8.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Microbiology: -OSH cx reviewed and still negative
   -admit pan culture is negative
   Assessment and Plan
   48 yo man with mental retardation, seizure disorder, hx DVT on
   coumadin, and recent meningitis admitted w/ presumed septic shock.
   Shock: in the setting of fever, rash and relative leukocytosis
   suspecting urosepsis as most likely etiology. resolved
   Presumed infection: suspect urine as most likely. doubt CNS infxn.
   -OSH urine dirty, need to f/u cultures
   -will narrow ABX today to GNR coverage, po given access difficulty
   -pull fem line prior to discharge
   ARF: ATN vs AIN (intrinsic renal by FeNa, though may have been checked
   after saline given; FeUrea wouild be more helpfu); resolving
   -cont fluids, renally-dosing meds, and minimizing nephrotoxins for now
   hx DVTx2: poss hypercoag state
   -on enoxaparin sc, can resume coumadin today
   Neuropsych disorder: mental retardation, seizure disorder and OCD
   - Cont home sertraline 250mg, buspirone 30mg [**Hospital1 **], and risperidone 0.5mg
   [**Hospital1 **]
   - Cont lorazepam 0.5-1mg po q4h prn anxiety
   - Cont home phenytoin
   - resume Neurontin 600 mg po tid
   HTN: cautious resumption of home anti-HTN regimen
   Rest of plan as per housestaff note.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2193-6-8**] 02:59 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes